US07572801B2
In analogy to the procedure described in example 78.4, 2-chloro-N-{2-[2-(2,5-difluoro-phenyl)-ethoxy]-1-imino-ethyl}-5-ethyl-nicotinamide was treated with potassium carbonate in DMF for 5 h at 100° C. to obtain 2-[2-(2,5-difluoro-phenyl)-ethoxymethyl]-6-ethyl-3H-pyrido[2,3-d]pyrimidin-4-one as off-white crystals. MS: m/e=346.1 [M+H+].

reactant | 2-chloro-N-{2-[2-(2,5-difluoro-phenyl)-ethoxy]-1-imino-ethyl}-5-ethyl-nicotinamide | ClC1=C(C(=O)NC(COCCC2=C(C=CC(=C2)F)F)=N)C=C(C=N1)CC | C18H18ClF2N3O2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | CN(C)C=O | C3H7NO
product | 2-[2-(2,5-difluoro-phenyl)-ethoxymethyl]-6-ethyl-3H-pyrido[2,3-d]pyrimidin-4-one | FC1=C(C=C(C=C1)F)CCOCC=1NC(C2=C(N1)N=CC(=C2)CC)=O | C18H17F2N3O2
